US07135581B2
Synthesis of estra-1,3,5(10)-triene-3-ol
Into a stirring suspension of estrone (8.1 g, 30 mmols) in 60 mL diethylene glycol, 20 mL 1-butanol and 2 mL hydrazine anhydrous (60 mmols) were added. The reaction mixture was heated under reflux for 1 hour to get clear solution. After cooling reaction mixture to 50 ° C., 5.04 g KOH pellets (90 mmols) were added and butanol was distilled. The reaction mixture was heated at 50° C. for 2 hours and then cooled to RT. On pouring in to ice (50 g), 20 mL 6N HCl was added and the reaction mixture stirred to give white solid product. The product was separated by filtration, washed with cold water and dried under vac. to give 7.5 g (90%) product. The product was purified on silica gel column eluted with CHCl3/MeOH 99:1. 1H NMR in CDCl3 confirmed the product as estra-1,3,5(10)-triene-3-ol.

reactant | estrone | 30 mmols, 8.1 g | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CCC2=O)O | C18H22O2
reactant | hydrazine | 60 mmols, 2 mL | NN | H4N2
reactant | KOH | 5.04 g | [OH-].[K+]
solvent | diethylene glycol | 60 mL | C(COCCO)O | C4H10O3
solvent | 1-butanol | 20 mL | C(CCC)O | C4H10O
product | estra-1,3,5(10)-triene-3-ol | 7.5 g, 90% | C[C@@]12CCC[C@H]1[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)O | C18H24O
